US09023858B2
2-(ethylsulfanyl)-7-methyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione
To a solution of 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (40 mg) in N,N-dimethylformamide (5 ml) was added sodium hydride (60% in oil, 193 mg) at room temperature, and the mixture was stirred for 10 min. To the reaction mixture was added iodomethane (0.009 ml), and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added water, and the precipitate was collected by filtration. The obtained solid was suspended in toluene, and the suspension was concentrated under reduced pressure. The residue was recrystallized from a mixed solvent of hexane/ethyl acetate/methanol to give the title compound (33 mg).

reactant | 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 40 mg | C(C)SC=1N(C(C2=C(N1)C(NC=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O3S
reactant | sodium hydride | 193 mg | [H-].[Na+]
reactant | iodomethane | 0.009 ml | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(ethylsulfanyl)-7-methyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 33 mg | C(C)SC=1N(C(C2=C(N1)C(N(C=C2)C)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
